US04766128
One millimole of 3-(2,3-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea is dissolved in 10 ml of methylene chloride, and 2 g of pyrolusite in solid form is added thereto. The mixture is then stirred for 2 hours at room temperature. After removing excess pyrolusite by filtration, the filtrate is evaporated. The residue is chromatographed on silica gel with methylene chloride/methanol (5%), thus obtaining 210 mg of 3-(6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea.

reactant | 3-(2,3-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | One millimole | CN1C[C@H](C[C@@H]2C=3C=C(C=C4NCC(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | 210 mg | CN1C[C@H](C[C@@H]2C=3C=C(C=C4NC=C(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H27N5O3
